US05614532
C. 2-(Benzylcarbonylamino)-4-chloro benzaldehyde
To a solution of N-(benzylcarbonyl)-5-chloro-2-hydroxymethyl aniline (15.50 g) in dichloromethane (400 ml) under nitrogen at room temperature, was added pyridinium chlorochromate (24.30 g) and crushed 4 Å molecular sieves (0.50 g). The reaction mixture was stirred at room temperature for 90 mins, then ethyl acetate added, and the solution was filtered through a 2 inch plug of silica gel. The solvent was removed in vacuo and the material was redissolved in ethyl acetate and filtered through silica gel. Removal of the solvent under vacuum and trituration of the solid residue with diethyl ether gave the desired compound (10.50 g). δ (360 MHz, DMSO-d6) 3.82 (2H, s, NHCOCH2Ph), 7.27-7.39 (6H, m, Ph+5-H), 7.87 (1H, d, J=8.30 Hz, 6-H), 8.36 (1H, d, J=1.87 Hz, 3-H), 9.89 (1H, s, CHO), 10.97 (1H, bs, NHCOCH2Ph).

reactant | N-(benzylcarbonyl)-5-chloro-2-hydroxymethyl aniline | 15.50 g | C(C1=CC=CC=C1)C(=O)NC1=C(C=CC(=C1)Cl)CO | C15H14ClNO2
reactant | pyridinium chlorochromate | 24.30 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-(Benzylcarbonylamino)-4-chloro benzaldehyde | 10.50 g | C(C1=CC=CC=C1)C(=O)NC1=C(C=O)C=CC(=C1)Cl | C15H12ClNO2
